US08445529B2
2-Aminocarbonylamino-6-methoxy-5-vinylindole-3-carboxamide (Compound No.8-1)
A suspension of 2-aminocarbonylamino-5-bromo-6-methoxyindole-3-carboxamide (Compound No.7-1, 86 mg, 0.26 mmol), vinylboronic acid pinacol ester (121 μL, 0.40 mmol), tetrakis(triphenylphosphine)palladium(0) (32 mg, 0.027 mmol) and sodium hydrogen carbonate (56 mg, 0.66 mmol) in 1,4-dioxane-water solution (3:1, 15 mL) was stirred overnight at 110° C. under argon atmosphere. After cooling, ethyl acetate (20 mL) and brine (15 mL) were added and separated. The organic layer was dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (4 mg) as a dark green solid (6%).

reactant | 2-aminocarbonylamino-5-bromo-6-methoxyindole-3-carboxamide | 0.26 mmol, 86 mg | NC(=O)NC=1NC2=CC(=C(C=C2C1C(=O)N)Br)OC | C11H11BrN4O3
reactant | vinylboronic acid pinacol ester | 0.40 mmol, 121 μL | C(=C)B1OC(C)(C)C(C)(C)O1 | C8H15BO2
reactant | sodium hydrogen carbonate | 0.66 mmol, 56 mg | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane water | 15 mL | O1CCOCC1.O
solvent | brine | 15 mL | [Cl-].[Na+].O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.027 mmol, 32 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Aminocarbonylamino-6-methoxy-5-vinylindole-3-carboxamide | 4 mg, 6% | NC(=O)NC=1NC2=CC(=C(C=C2C1C(=O)N)C=C)OC | C13H14N4O3
